US06207668B1
3.) Preparation of 4-azido-2-phenyltetrahydrofuran
14.7 g (61 mmol) of 4-methanesulfonyloxy-2-phenyltetrahydrofuran and 5.13 g (79 mmol) of sodium azide were heated for 3 hours in 120 ml of DMF at 90° C. After the mixture had cooled, it was diluted with ether, washed with water and saturated NaCl solution, dried and concentrated in vacuo. This gave 9.4 g (quant.) of a colorless oil, which was further reacted directly.

reactant | 4-methanesulfonyloxy-2-phenyltetrahydrofuran | 61 mmol, 14.7 g | CS(=O)(=O)OC1CC(OC1)C1=CC=CC=C1 | C11H14O4S
reactant | sodium azide | 79 mmol, 5.13 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 4-azido-2-phenyltetrahydrofuran | N(=[N+]=[N-])C1CC(OC1)C1=CC=CC=C1 | C10H11N3O
